US06858621B2
A mixture of iron (30.2 g, 540 mmol), glacial acetic acid (2 mL), and water (40 mL) was prepared in a 500 mL 3-necked round bottom flask equipped with a dropping funnel and an overhead stirrer. A solution of (2,4-dinitro-phenylsulfanyl)-acetic acid ethyl ester (11.79 g, 41.2 mmol) in glacial acetic acid (40 mL) and ethyl acetate (40 mL) was added dropwise. After addition the dropping funnel was replaced with a condenser and the solution heated at 80° C. for 3.5 hrs, then allowed to stir overnight at room temperature. The mixture was filtered through Celite and the Celite washed with ethyl acetate and water. The layers were separated in a separatory funnel and the aqueous layer extracted twice with ethyl acetate. The organic layers were washed with water, twice with saturated sodium bicarbonate, then dried over magnesium sulfate, filtered, and evaporated under vacuum to yield a 6-amino-4H-benzo[1,4]thiazin-3-one as a brown solid.

reactant | water | 40 mL | O | H2O
reactant | (2,4-dinitro-phenylsulfanyl)-acetic acid ethyl ester | 41.2 mmol, 11.79 g | C(C)OC(CSC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C10H10N2O6S
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
catalyst | iron | 540 mmol, 30.2 g | [Fe] | Fe
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 6-amino-4H-benzo[1,4]thiazin-3-one | NC=1C=CC2=C(NC(CS2)=O)C1 | C8H8N2OS
